US09403768B2
N,N,N′,N′-tetramethylfluoroformamidinium hexafluorophosphate (1.1 g, 4.18 mmol, Eq: 1.6) was added to a solution of (S)-2-(tert-butoxycarbonylamino)-3-methylbutanoic acid (738 mg, 3.4 mmol, Eq: 1.3) and diisopropylethylamine (1.4 mL, 7.84 mmol, Eq: 3) in DCM (10 mL) and the resulting solution was stirred at rt for 1 h. (S)-Ethyl indoline-2-carboxylate (0.5 g, 2.61 mmol, Eq: 1.00) was added and the reaction mixture was stirred at rt over the weekend. The reaction mixture was diluted with EtOAc (50 mL) and washed with 0.1 M aqueous HCl (50 mL), 0.1 M aqueous NaOH (50 mL) and brine (25 mL). The crude material was purified by flash chromatography (silica gel, 24 g, 0% to 20% EtOAc in hexanes) to give (S)-ethyl 1-((S)-2-(tert-butoxycarbonylamino)-3-methylbutanoyl)indoline-2-carboxylate (0.58 g), m/z=391 (M+H).

reactant | N,N,N′,N′-tetramethylfluoroformamidinium hexafluorophosphate | 4.18 mmol, 1.1 g | F[P-](F)(F)(F)(F)F.CN(C(=[N+](C)C)F)C
reactant | (S)-2-(tert-butoxycarbonylamino)-3-methylbutanoic acid | 3.4 mmol, 738 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C(C)C | C10H19NO4
reactant | diisopropylethylamine | 7.84 mmol, 1.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (S)-Ethyl indoline-2-carboxylate | 2.61 mmol, 0.5 g | N1[C@@H](CC2=CC=CC=C12)C(=O)OCC | C11H13NO2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | (S)-ethyl 1-((S)-2-(tert-butoxycarbonylamino)-3-methylbutanoyl)indoline-2-carboxylate | 0.58 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@@H](CC2=CC=CC=C12)C(=O)OCC)C(C)C | C21H30N2O5
